US04642379
4-(Acetylamino)-N-(2,6-dimethylphenyl)benzamide
To a solution of 2.0 g of 4-amino-N-(2,6-dimethylphenyl)benzamide in dimethylformamide were added 1 ml of pyridine followed by 710 μl of acetyl chloride. The reaction was stirrred at room temperature for 2 hours, diluted with water, and chilled to approximately 4° C. The title product was recovered by filtration in 85% yield, m.p. 293°-295° C.

reactant | 4-amino-N-(2,6-dimethylphenyl)benzamide | 2.0 g | NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C15H16N2O
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 710 μl | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(Acetylamino)-N-(2,6-dimethylphenyl)benzamide | 85% yield | C(C)(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C17H18N2O2
